US07247734B2
Synthesis of 6-Chloro-3-(3′-ethoxy-biphenyl-4-yl)-7-hydroxy-chromen-4-one
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.26 g, 1.8 mmol), (3′-Ethoxybiphenyl-4-yl)-acetic acid (0.44 g, 1.8 mmol), BF3Et2O (5 ml), PCl5 (0.56 g, 2.69 mmol), DMF (8 ml and 5 ml). The crude oil product (0.39 g, 55.2%) was taken onto the next stage. Rf 0.8 ethyl acetate/hexane (70/30)].

reactant | 4-Chlororesorcinol | 1.8 mmol, 0.26 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | (3′-Ethoxybiphenyl-4-yl)-acetic acid | 1.8 mmol, 0.44 g | C(C)OC=1C=C(C=CC1)C1=CC=C(C=C1)CC(=O)O | C16H16O3
reactant | PCl5 | 2.69 mmol, 0.56 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-Chloro-3-(3′-ethoxy-biphenyl-4-yl)-7-hydroxy-chromen-4-one | ClC=1C=C2C(C(=COC2=CC1O)C1=CC=C(C=C1)C1=CC(=CC=C1)OCC)=O | C23H17ClO4
